US07067517B2
5-(3,5-Dichloro-pyridin-2-yloxy)-2-methoxy-pyridine
A solution of 5-hydroxy-2-methoxypyridine (1.25 g, 10.0 mmol), 2,3,5-trichloropyridine (1.82 g, 10.0 mmol) and potassium hydroxide (85% pure, 1.08 g, 10.0 mmol) in dimethyl sulfoxide (25 mL) was heated at 90° C. for 1.5 hours. The solution was poured slowly into water (200 mL). The precipitate was collected by suction, washed thoroughly with water and dried in a vacuum oven at 45° C., yielding the title compound (2.39 g, 88% yield).

reactant | 5-hydroxy-2-methoxypyridine | 10.0 mmol, 1.25 g | OC=1C=CC(=NC1)OC | C6H7NO2
reactant | 2,3,5-trichloropyridine | 10.0 mmol, 1.82 g | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
reactant | potassium hydroxide | 10.0 mmol, 1.08 g | [OH-].[K+]
reactant | water | 200 mL | O | H2O
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
product | 5-(3,5-Dichloro-pyridin-2-yloxy)-2-methoxy-pyridine | 2.39 g, 88% yield | ClC=1C(=NC=C(C1)Cl)OC=1C=CC(=NC1)OC | C11H8Cl2N2O2
